US04367234
5-(2-Chloro-6-methoxyphenyl)oxazolidin-2,4-dione (1.21 g., 5 mmoles) was dissolved in 10 ml. of tetrahydrofuran. Acetic anhydride (613 mg. 0.57 ml. 6 mmoles) was added and the solution stirred at room temperature for 44 hours. The reaction mixture was concentrated to an oil, partitioned between chloroform and saturated sodium bicarbonate. The chloroform layer was washed with fresh bicarbonate and then brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to solid. Repulp of the residue in about 50 ml. of ether gave 3-acetyl-5-(2-chloro-6-methoxyphenyl)oxazolidin-2,4-dione (790 mg., 56%; m.p. 132°-135° C. m/e 285/283).

reactant | 5-(2-Chloro-6-methoxyphenyl)oxazolidin-2,4-dione | 5 mmoles, 1.21 g | ClC1=C(C(=CC=C1)OC)C1C(NC(O1)=O)=O | C10H8ClNO4
reactant | Acetic anhydride | 6 mmoles, 0.57 ml, 613 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-acetyl-5-(2-chloro-6-methoxyphenyl)oxazolidin-2,4-dione | C(C)(=O)N1C(OC(C1=O)C1=C(C=CC=C1OC)Cl)=O | C12H10ClNO5
